US06620921B1
1,2,3,5,6-Penta-O-propanoyl-β-D-glucofuranose (1.0 g, 2.2 mmol) and phenol (0.41 g, 4.3 mmol) were dissolved in CH2Cl2 (10 mL) and boron trifluoride diethyl etherate (134 μL, 1.1 mmol) was added dropwise. The solution was left at room temperature overnight by which time the reaction was complete by TLC. The reaction mixture was washed with saturated aqueous NaHCO3 (30 mL), water, dried (MgSO4) and concentrated in vacuo. Flash silica chromatography of the residue, eluting with 15% ethyl acetate in petroleum ether, gave phenyl 2,3,5,6-tetra-O-propanoyl-β-D-glucofuranoside as a colourless syrup (0.8 g, 77%); δH (CDCl3) 7.29 (2H, dd, J 7.4 and 8.4, 3′-and 5′-H), 7.02 (1H, t, J 7.4, 4′-H), 7.01 (2H, d, J 8.4, 2′- and 6′-H), 5.63 (1H, s, 1-H), 5.46 (1H, d, J 5.0, 3-H), 5.31 (1H, ddd, J 9.4, 4.6 and 2.4, 5-H), 5.27 (1H, s, 2-H), 4.62 (1H, dd, J 9.4 and 5.0, 4-H), 4.54 (1H, dd, J 12.3 and 2.4, 6a-H), 4.09 (1H, dd, J 12.3 and 4.6, 6b-H), 2.42 (2H, q, J 7.5, CH2), 2.39 (2H, q, J 7.5, CH2), 2.33 (2H, q, J 7.5, CH2), 2.25 (2H, q, J 7.5, CH2), 1.17 (3H, t, J 7.5, CH3), 1.15 (3H, t, J 7.5, CH3), 1.13 (3H, t, J 7.5, CH3), 1.08 (3H, t, J 7.5, CH3); δC (CDCl3) 174.3, 173.3, 173.3, 173.0 (4×C═O), 156.6 (1′-C), 130.0 (3′- and 5′-C), 122.9 (4′-C), 116.9 (2′- and 6′-C), 104.6 (1-C), 80.7 (2-C), 79.7 (4-C), 73.6 (3-C), 68.9 (5-C), 63.2 (6-C), 27.8, 27.8, 27.8, 27.7 (4×CH2), 9.4, 9.2, 9.2, 9.1 (4×CH3).

reactant | 1,2,3,5,6-Penta-O-propanoyl-β-D-glucofuranose | 2.2 mmol, 1.0 g | C(CC)(=O)O[C@H]1[C@H](OC(CC)=O)[C@@H](OC(CC)=O)[C@H](O1)[C@H](OC(CC)=O)COC(CC)=O | C21H32O11
reactant | phenol | 4.3 mmol, 0.41 g | C1(=CC=CC=C1)O | C6H6O
reactant | boron trifluoride diethyl etherate | 1.1 mmol, 134 μL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | phenyl 2,3,5,6-tetra-O-propanoyl-β-D-glucofuranoside | 0.8 g, 77% | C(CC)(=O)O[C@H]1[C@H](OC2=CC=CC=C2)O[C@@H]([C@@H]1OC(CC)=O)[C@H](OC(CC)=O)COC(CC)=O | C24H32O10
